US08703810B2
A suspension of 2,2-dimethylsuccinic acid (10.5 g, 71.7 mmol) in acetic anhydride (50 mL) was heated at 85° C. for 30 minutes and then concentrated under reduced pressure. The residue was dissolved in toluene (150 mL) and (S)-2-aminopropan-1-ol (6.0 g, 80 mmol) was added. The mixture was heated at reflux for 1 h under nitrogen atmosphere and cooled to room temperature. The solvent was removed under reduced pressure, and the residue was heated in acetic anhydride (50 mL) at 80° C. under nitrogen overnight. The reaction mixture was cooled to room temperature, and the solvent was removed under reduced pressure. The residue was purified on a silica gel column (eluting with PE/EA=3/1) to afford (S)-2-(3,3-dimethyl-2,5-dioxopyrrolidin-1-yl)propyl acetate (10.1 g, 62.3%). 1H-NMR (CDCl3) δ 4.41 (m, 2H), 4.25 (m, 1H), 2.50 (s, 2H), 1.97 (s, 3H), 0.137 (d, 3H), 1.29 (s, 3H), 1.28 (s, 3H).

reactant | 2,2-dimethylsuccinic acid | 71.7 mmol, 10.5 g | CC(C(=O)O)(CC(=O)O)C | C6H10O4
reactant | (S)-2-aminopropan-1-ol | 80 mmol, 6.0 g | N[C@H](CO)C | C3H9NO
reactant | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (S)-2-(3,3-dimethyl-2,5-dioxopyrrolidin-1-yl)propyl acetate | 10.1 g, 62.3% | C(C)(=O)OC[C@H](C)N1C(C(CC1=O)(C)C)=O | C11H17NO4
